US07282512B2
Preparation of [1-({[2-(4-phenyl-1-piperazinyl)-4-pyrimidinyl]oxy}methyl)cyclobutyl]methanol
The title compound was prepared from (1-{[(2-chloro-4-pyrimidinyl)oxy]methyl}cyclobutyl)methanol using the same experimental procedure as in example 21a using 1-phenylpiperazine. 1H NMR (300 MHz, CDCl3) δ 8.01 (d, J=6 Hz, 1H), 7.21 (m, 2H), 6.92-6.82 (m, 3H), 5.93 (d, J=6 Hz, 1H), 4.37 (s, 2H), 3.90 (m, 4H), 3.58 (s, 2H), 3.18 (m, 4H), 2.54 (br s, 1H).

reactant | (1-{[(2-chloro-4-pyrimidinyl)oxy]methyl}cyclobutyl)methanol | ClC1=NC=CC(=N1)OCC1(CCC1)CO | C10H13ClN2O2
reactant | 1-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
product | [1-({[2-(4-phenyl-1-piperazinyl)-4-pyrimidinyl]oxy}methyl)cyclobutyl]methanol | C1(=CC=CC=C1)N1CCN(CC1)C1=NC=CC(=N1)OCC1(CCC1)CO | C20H26N4O2
